US07163958B2
4a. 2-((Hydroxyethyl)(4-nitrophenyl)amino)ethan-1-ol
A mixture of 4-fluoronitrobenzene (5 g, 35 mmol) and diethanolamine (7.5 g, 71 mmol) was heated to 130° C. without solvent for 4 hours. The crude reaction mixture after chromatography on silica gel (gravity, methanol:dichloromethane 1:19 then 1:9) gave the title compound (6.7 g, 85% yield). 1H NMR (300 MHz, DMSO-d6) δ 7.98 (d, 2H), 6.78 (d, 2H), 4.83 (t, 2H), 3.50–3.65 (m, 8H). 13C NMR (75, DMSO-d6) δ 154.36, 136.16, 126.77, 111.66, 58.89, 54.17. Mass spectrum m/z 227 (MH+). Anal. calcd. for C10H14N2O4 C, 53.09; H, 6.24; N, 12.38. Found C, 53.09, H, 6.32, N, 12.34.

reactant | 4-fluoronitrobenzene | 35 mmol, 5 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | diethanolamine | 71 mmol, 7.5 g | N(CCO)CCO | C4H11NO2
solvent | methanol dichloromethane | CO.ClCCl
product | 2-((Hydroxyethyl)(4-nitrophenyl)amino)ethan-1-ol | 6.7 g, 85% yield | OCCN(CCO)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O4
